** GENERATED by `analog-db export-raw` — DO NOT EDIT.
** circuit=vref_001_vgs  class=voltage_reference  pdk=ihp-sg13g2  testbench=temp_sweep  corner=tt
** Self-contained deck: testbench + bound params + lowered DUT (.subckt vref_001_vgs).
** PDK corner libs resolve by BARE NAME on the image's ngspice sourcepath — run in a
** PDK-enabled env (the base image / api container), NOT a bare host:
**   docker run --rm -i spicexplorer-spice-base:local \
**     bash -lc 'd=$(mktemp -d) && cat > $d/c.spice && cd $d && ngspice -b c.spice' < raw/vref_001_vgs/ihp-sg13g2/temp_sweep.spice
*----------------------------------------------------------*
** AUTHORED TEMPLATE — voltage_reference/temp_sweep: temperature coefficient (box method).
** [VALIDATED 2026-07-16 on ihp-sg13g2 against vref_001_vgs — live ngspice, 4/4 benches pass].
** Sweeps ambient temperature and reports the box-method TC (Vmax-Vmin)/Vavg/range (ppm/degC) and
** the 25 degC reference level. Port convention: vdd vref vss.
** Bindings: DUT PORT_LINE VDD TSTART TSTOP TSTEP PDK_INCLUDE.
.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt
.temp 27

.param VDD=1.2

Vdd vdd 0 dc {VDD}
Vss vss 0 dc 0

XDUT vdd vref vss vref_001_vgs

.control
  set filetype=ascii
  dc temp -20 120 5
  meas dc vref_25c FIND v(vref) AT=25
  meas dc vmax MAX v(vref) FROM=-20 TO=120
  meas dc vmin MIN v(vref) FROM=-20 TO=120
  meas dc vavg AVG v(vref) FROM=-20 TO=120
  let tc_ppm = (vmax - vmin) / vavg / (120 - (-20)) * 1e6
  print tc_ppm vref_25c
  write
  quit
.endc
.param x_dut_xm0_w=2.5u
.param x_dut_xm0_l=2.0u
.param x_dut_xm0_m=1
.param x_dut_xm1_w=1.0u
.param x_dut_xm1_l=2.0u
.param x_dut_xm1_m=1
.subckt vref_001_vgs vdd vref vss
XM0 vdd vref vref vss sg13_lv_nmos l=x_dut_xm0_l m=x_dut_xm0_m w=x_dut_xm0_w
XM1 vref vref vss vss sg13_hv_nmos l=x_dut_xm1_l m=x_dut_xm1_m w=x_dut_xm1_w
.ends
.end
